US04515727
Methyl-8-thianonadeca-4,5-dienoate (210 mg) was treated in 10 ml of ethanol and 1 ml of water with 160 mg of lithium hydroxide at room temperature for 18 hours. The solution was acidified to pH 4 with dilute HCl and extracted with diethyl ether twice. The ethereal extracts were washed with brine and dried over potassium carbonate to give 120 mg of 8-thianonadeca-4,5-dienoic acid. This procedure can be used to convert the compounds of Example VI to their corresponding acid.

reactant | Methyl-8-thianonadeca-4,5-dienoate | 210 mg | COC(CCC=C=CCSCCCCCCCCCCC)=O | C19H34O2S
reactant | water | 1 ml | O | H2O
reactant | lithium hydroxide | 160 mg | [OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 8-thianonadeca-4,5-dienoic acid | 120 mg | C(CCC=C=CCSCCCCCCCCCCC)(=O)O | C18H32O2S
